US07507740B2
(ii) Production of N-(tert-butyl)-4-[2-chloro-4-({5-[2-(2-hydroxyethoxy)ethyl]-5H-pyrrolo[3,2-d]pyrimidin-4-yl}amino)phenoxy]benzamide hydrochloride
A mixture of 4-{4-[(5-{2-[2-(benzoyloxy)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-yl)amino]-2-chlorophenoxy}benzoic acid hydrochloride (183 mg), 2-methylpropan-2-amine (0.038 mL), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (69 mg), 1-hydroxybenzotriazole monohydrate (55 mg), triethylamine (0.050 mL) and N,N-dimethylformamide (3 mL) was stirred overnight at room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was subjected to silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→10:90). The object fraction was concentrated under reduced pressure. The residue was dissolved in a mixed solvent of methanol (5 mL) and tetrahydrofuran (1 mL), 1N aqueous sodium hydroxide solution (0.6 mL) was added and the mixture was stirred at room temperature for 3 days. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was subjected to basic silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→10:90). The object fraction was concentrated under reduced pressure. The residue was dissolved in ethyl acetate-ethanol, and 1N hydrochloric acid/ethyl acetate solution (0.3 mL) was added. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from ethanol-ethyl acetate to give the title compound (118 mg) as a white powder.

reactant | 4-{4-[(5-{2-[2-(benzoyloxy)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-yl)amino]-2-chlorophenoxy}benzoic acid hydrochloride | 183 mg | Cl.C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(OC1=CC=C(C(=O)O)C=C1)C=C2)Cl
reactant | 2-methylpropan-2-amine | 0.038 mL | CC(C)(C)N | C4H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 69 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 55 mg | O.ON1N=NC2=C1C=CC=C2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.050 mL | C(C)N(CC)CC | C6H15N
product | N-(tert-butyl)-4-[2-chloro-4-({5-[2-(2-hydroxyethoxy)ethyl]-5H-pyrrolo[3,2-d]pyrimidin-4-yl}amino)phenoxy]benzamide hydrochloride | 118 mg | Cl.C(C)(C)(C)NC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=CN2CCOCCO)Cl)=O | InChI=1S/C27H30ClN5O4.ClH/c1-27(2,3)32-26(35)18-4-7-20(8-5-18)37-23-9-6-19(16-21(23)28)31-25-24-22(29-17-30-25)10-11-33(24)12-14-36-15-13-34;/h4-11,16-17,34H,12-15H2,1-3H3,(H,32,35)(H,29,30,31);1H
